US08227468B2
6-Bromochroman-4-ol
To a suspension of 7-bromo-3,4-dihydronaphthalen-1(2H)-one (3.95 kg, 17.4 mol) in ethanol (20 L) at room temperature add sodium borohydride (221 g, 5.84 mol) in portions over 3 hr. Concentrate the clear red solution. Add the residue into ice (about 3 kg) to form a suspension and then slowly add ice-cooled 0.5 M HCl (10 L) into the above suspension with stirring. Extract the mixture with methyl tert-butyl ether (20 L and 5 L). Wash the combined organic phase with saturated aqueous sodium bicarbonate (10 L) and brine (2×10 L), concentrate the solvent under reduced pressure and dry the wet solid in air overnight to obtain the title compound as a pale yellow solid (4.10 kg, quantitative). LC-ES/MS m/z 211 [M−H-2O+H]+.

reactant | 7-bromo-3,4-dihydronaphthalen-1(2H)-one | 17.4 mol, 3.95 kg | BrC1=CC=C2CCCC(C2=C1)=O | C10H9BrO
reactant | sodium borohydride | 5.84 mol, 221 g | [BH4-].[Na+]
reactant | HCl | 0.5 M, 10 L | Cl | ClH
reactant | ethanol | 20 L | C(C)O | C2H6O
product | 6-Bromochroman-4-ol | 4.10 kg | BrC=1C=C2C(CCOC2=CC1)O | C9H9BrO2
